spice
* SPICE Netlist

* Current Sources
IS   4  5   DC 0
ISR  8  10  DC 0
ISV  9  6   DC 0

* Voltage Source
IBV  4  4   DC 0

* Diodes
D1   5  3   D_model
D2   2  2   D_model

* Resistors
RE   8  9   0
RP   9  7   0
RS   3  2   0

* Capacitor
C1   2  6   1F

* Models (example diode model)
.model D_model D(IS=1e-14 N=1)

.end